US08633173B2
N(8)-(3-Methoxy-benzyl)-N(2)-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine was prepared from (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(3-methoxy-benzyl)-amine (99.9 mg, 0.346 mmol) and 4-aminopyridine (36.47 mg, 0.3875 mmol) in a manner analogous to Example 2d. Product was isolated as an off-white foam (3.63 mg, 3%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 10.02 (s, 1H), 8.32 (m, 2H), 8.00 (d, J=6.7 Hz, 1H), 7.69 (m, 2H), 7.23 (t, J=16.4, 8.2 Hz, 1H), 6.97 (s, 2H), 6.79 (m, 2H), 6.67 (m, 1H), 6.34 (d, J=8.0 Hz, 1H), 4.50 (d, J=6.1 Hz, 2H), 3.72 (s, 3H). MS=347 (MH)+.

reactant | (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(3-methoxy-benzyl)-amine | 0.346 mmol, 99.9 mg | ClC1=NN2C(C(=CC=C2)NCC2=CC(=CC=C2)OC)=N1 | C14H13ClN4O
reactant | 4-aminopyridine | 0.3875 mmol, 36.47 mg | NC1=CC=NC=C1 | C5H6N2
product | N(8)-(3-Methoxy-benzyl)-N(2)-pyridin-4-yl-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine | COC=1C=C(CNC=2C=3N(C=CC2)N=C(N3)NC3=CC=NC=C3)C=CC1 | C19H18N6O
